US05304560
A mixture of methyl 2-[N-(4-chlorobutyl)-N-ethoxycarbonylamino]-4-nitrobenzoate (2.20 g), 4-phenyl-1,2,3,6-tetrahydropyridine hydrochloride (1.32 g), sodium iodide (921 mg), and potassium carbonate (1.69 g) in dry dimethylformamide (30 ml) was stirred at 80° C. for 16 hours. The reaction mixture was poured into ice-water, extracted with ethyl acetate. Combined organic extract was washed in turn with water and brine, dried over magnesium sulfate, and evaporated. The crude residue was chromatographed on silica gel (40 g), eluting with a mixed solvent of chloroform and methanol (50:1 V/V) to give methyl 2-[N-{4-(4-phenyl-1,2,3,6-tetrahydropyridin-1-yl)butyl}-N-ethoxycarbonylamino]-4-nitrobenzoate (1.58 g).

reactant | methyl 2-[N-(4-chlorobutyl)-N-ethoxycarbonylamino]-4-nitrobenzoate | 2.20 g | ClCCCCN(C(=O)OCC)C1=C(C(=O)OC)C=CC(=C1)[N+](=O)[O-] | C15H19ClN2O6
reactant | 4-phenyl-1,2,3,6-tetrahydropyridine hydrochloride | 1.32 g | Cl.C1(=CC=CC=C1)C=1CCNCC1
reactant | sodium iodide | 921 mg | [I-].[Na+]
reactant | potassium carbonate | 1.69 g | C([O-])([O-])=O.[K+].[K+]
solvent | dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
product | methyl 2-[N-{4-(4-phenyl-1,2,3,6-tetrahydropyridin-1-yl)butyl}-N-ethoxycarbonylamino]-4-nitrobenzoate | 1.58 g | C1(=CC=CC=C1)C=1CCN(CC1)CCCCN(C(=O)OCC)C1=C(C(=O)OC)C=CC(=C1)[N+](=O)[O-] | C26H31N3O6
